US08461328B2
A mixture of racemic trans [3-(6-benzenesulfonyl-6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-cyclopentyl]-carbamic acid tert-butyl ester (1.00 g, 2.07 mmol) and trifluoroacetic acid (4 mL) was stirred at ambient temperature for 90 minutes. The mixture was purified by column chromatography (SCX-2, gradient: methanol to 2M NH3 in methanol) to afford 600 mg (76%) of racemic trans 3-(6-benzenesulfonyl-6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-cyclopentylamine as an off white foam. LCMS (Method B, ESI): RT=2.40 min, m+H=383.

reactant | racemic trans [3-(6-benzenesulfonyl-6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-cyclopentyl]-carbamic acid tert-butyl ester | 2.07 mmol, 1.00 g | C(C)(C)(C)OC(N[C@@H]1C[C@H](CC1)N1N=NC2=CN=C3N(C=CC3=C12)S(=O)(=O)C1=CC=CC=C1)=O | C23H26N6O4S
reactant | trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
product | racemic trans 3-(6-benzenesulfonyl-6H-1,2,3,5,6-pentaaza-as-indacen-1-yl)-cyclopentylamine | 600 mg, 76% | C1(=CC=CC=C1)S(=O)(=O)N1C2=NC=C3N=NN(C3=C2C=C1)[C@@H]1C[C@H](CC1)N | C18H18N6O2S
